US06034128
2.06 Grams of (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylic acid chloride was added to a mixture of 1.78 g of (2,3,5,6-tetrafluoro-4-methylphenyl)methanol, 0.87 g of pyridine and 20 ml of tetrahydrofuran under ice-cooling. The resulting mixture was stirred at room temperature for 8 hours. The reaction mixture was poured into about 100 ml of ice water and extracted twice with 100 ml of ethyl acetate. The combined ethyl acetate layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate=20/1) to obtain 2.75 g (yield: 87%) of (2,3,5,6-tetrafluoro-4-methylphenyl)methyl (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate.

reactant | (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylic acid chloride | CC1([C@@H]([C@H]1C=C(C)C)C(=O)Cl)C | C10H15ClO
reactant | (2,3,5,6-tetrafluoro-4-methylphenyl)methanol | 1.78 g | FC1=C(C(=C(C(=C1F)C)F)F)CO | C8H6F4O
reactant | pyridine | 0.87 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2,3,5,6-tetrafluoro-4-methylphenyl)methyl (1R)-trans-2,2-dimethyl-3-(2-methyl-1-propenyl)cyclopropanecarboxylate | 2.75 g, yield: 87% | CC1([C@@H]([C@H]1C=C(C)C)C(=O)OCC1=C(C(=C(C(=C1F)F)C)F)F)C | C18H20F4O2
